US07087579B2
To a solution of 1-bromo-4-[(methoxymethyloxy)methyl]benzene (3.0 g) in tetrahydrofuran (52 mL) was added n-butyllithium (1.6 mol/L hexane solution, 9.3 mL) at −78° C., and the mixture was stirred for 30 minutes. To the reaction mixture was added triisopropyl borate (2.6 g), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 1 mol/L hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 4-[(methoxymethyloxy)methyl]phenylboric acid (2.5 g). A mixture of the obtained 4-[(methoxymethyloxy)methyl]phenylboric acid (2.5 g), 2-bromothiazole (1.2 g), cesium fluoride (2.2 g) and tetrakis(triphenylphosphine)palladium (0) (0.16 g) in 1,2-dimethoxyethane (40 mL), ethanol (10 mL) and water (10 mL) was stirred at 85° C. for 24 hours. The reaction mixture was concentrated under reduced pressure, and to the residue was added water, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give 2-{4-[(methoxymethyloxy)methyl]phenyl}thiazole (0.80 g). To a solution of 2-{4-[(methoxymethyloxy)methyl]phenyl}thiazole (0.80 g) in ethanol (10 mL) was added 2 mol/L hydrochloric acid solution (5 mL), and the mixture was stirred at 50° C. for 5 hours. Concentrated hydrochloric acid (0.10 mL) was added to the mixture, and the mixture was stirred for 1 hour. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1-1/1) to give 4-(thiazol-2-yl)benzyl alcohol (0.33 g).

reactant | 2-{4-[(methoxymethyloxy)methyl]phenyl}thiazole | 0.80 g | COCOCC1=CC=C(C=C1)C=1SC=CN1 | C12H13NO2S
reactant | hydrochloric acid | 2 mol/L, 5 mL | Cl | ClH
reactant | hydrochloric acid | 0.10 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(thiazol-2-yl)benzyl alcohol | 0.33 g | S1C(=NC=C1)C1=CC=C(CO)C=C1 | C10H9NOS
